US07022700B2
Synthesis of 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7 methoxy-8-hydroxy-5H-2,3-benzodiazepine
A solution of 14 g of 3-{2-[(3,4-dimethoxyphenyl)carbonyl]-4-hydroxy-5-methoxyphenyl}pentan-2-one and 4.7 mL of hydrazine in 280 mL of ethanol was heated at reflux for 0.5 hr. After allowing the solution to cool to room temperature, it was saturated with HCl gas. The mixture was then concentrated to a volume of about 5 mL, basified with concentrated ammonium hydroxide, and extracted with methylene chloride. The combined methylene chloride extracts were dried and concentrated, and the residue recrystallized from ethyl acetate/hexane. Yield: 1.5 g

reactant | 3-{2-[(3,4-dimethoxyphenyl)carbonyl]-4-hydroxy-5-methoxyphenyl}pentan-2-one | 14 g | COC=1C=C(C=CC1OC)C(=O)C1=C(C=C(C(=C1)O)OC)C(C(C)=O)CC | C21H24O6
reactant | hydrazine | 4.7 mL | NN | H4N2
reactant | HCl | Cl | ClH
solvent | ethanol | 280 mL | C(C)O | C2H6O
product | 1-(3,4-dimethoxyphenyl)-4-methyl-5-ethyl-7 methoxy-8-hydroxy-5H-2,3-benzodiazepine | COC=1C=C(C=CC1OC)C1=NN=C(C(C2=C1C=C(C(=C2)OC)O)CC)C | C21H24N2O4
